US04396772
1,1'-Carbonyldiimidazole (0.56 g) was added portionwise to a cooled (0° C.) solution of [ethoxy(4-phenylbutyl)phosphinyl]acetic acid (0.98 g) in 70 ml of acetonitrile. This reaction mixture was stirred under argon at 0° C. for 1.5 hours. The HCl salt of L-tyrosine methyl ester (0.8 g) was dissolved in methanol and neutralized with triethylamine (0.35 g). This solution was concentrated in vacuo, dissolved in 10 ml of warm acetonitrile and added dropwise to the above solution of activated phosphinic acid ester sidechain. The reaction was stirred overnight under argon and then concentrated in vacuo. A solution of the pot residue in dichloromethane was washed (H2O, aqueous NaHCO3, brine), dried (MgSO4) and filtered to yield 1.4 g of N-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-L-tyrosine, methyl ester.

reactant | 1,1'-Carbonyldiimidazole | 0.56 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | [ethoxy(4-phenylbutyl)phosphinyl]acetic acid | 0.98 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)O | C14H21O4P
reactant | HCl | Cl | ClH
reactant | L-tyrosine methyl ester | 0.8 g | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | triethylamine | 0.35 g | C(C)N(CC)CC | C6H15N
product | N-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-L-tyrosine, methyl ester | 1.4 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC | C24H32NO6P
